US07655666B2
2-Amino-5-iodo-4-isopropyl-benzoic acid methyl ester (300 mg, 0.94 mmol) and 1-methyl-5-tributylstannanyl-1H-pyrazole (523 mg, 1.5 equiv) were weighed in air and added in a flame-dried flask. [Bistriphenylphosphine]dichloropalladium (67.3 mg, 0.1 equiv) was added and the flask was closed by a septum. Dioxane (1 mL) was added and the mixture was stirred for 18 h (TLC control) at 100° C. The mixture was dissolved with EtOAc, filtered and evaporated to dryness. The crude product was purified by flash chromatography (hexanes to EtOAc/hexanes (4:6)) to yield 2-amino-4-isopropyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (169 mg, 66%) as a yellow solid. (ESI-MS: m/z 274 [M+H]+, rt 5.20 min).

reactant | 2-Amino-5-iodo-4-isopropyl-benzoic acid methyl ester | 0.94 mmol, 300 mg | COC(C1=C(C=C(C(=C1)I)C(C)C)N)=O | C11H14INO2
reactant | 1-methyl-5-tributylstannanyl-1H-pyrazole | 523 mg, 1.5 equiv | CN1N=CC=C1[Sn](CCCC)(CCCC)CCCC
reactant | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-amino-4-isopropyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 169 mg, 66% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(C)C)N)=O | C15H19N3O2
